US08119666B2
E. 2-(3-Benzyloxy-4-nitrobenzyl)-6-methylbenzonitrile
A mixture of 2-benzyloxy-4-bromomethyl-1-nitrobenzene (2.99 g, 9.27 mmol) and Pd(PPh3)4 (536 mg, 0.464 mmol) in DME (10 mL) is heated to 60° C. for 2 min. in a microwave. 2-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (5.96 g of crude, ˜13.9 mmol) in DME (10 mL) and EtOH (2 mL) is added along with Na2CO3 (2 M, 3.3 mL). The reaction mixture is heated to 110° C. for 30 min. by microwave. Then the reaction is heated to 120° C. for an additional 15 min. by microwave. The reaction mixture is diluted with DCM (150 mL) and extracted with water (50 mL). The aqueous layer is extracted with DCM (30 mL) and the combined organics is dried over Na2SO4. Evaporation yields a brown oil, and it is then purified by flash column to yield a tan solid as the title compound: MS (M−H)−=357.2.

reactant | 2-benzyloxy-4-bromomethyl-1-nitrobenzene | 9.27 mmol, 2.99 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CBr)[N+](=O)[O-] | C14H12BrNO3
reactant | 2-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | ˜13.9 mmol, 5.96 g | CC1=C(C#N)C(=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO2
reactant | Na2CO3 | 2 M, 3.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.464 mmol, 536 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Benzyloxy-4-nitrobenzyl)-6-methylbenzonitrile | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C#N)C(=CC=C2)C)C=CC1[N+](=O)[O-] | C22H18N2O3
